US07544672B2
A solution of 1-(pent-4-ynyl)piperazine (2.2 g) and Et3N (22 mL) in 1,2-dichloroethane (22 mL) was treated with p-nitrophenyl chloroformate (2.9 g) at rt for 10 min. Work-up and silica gel chromatography (DCM:EtOAc 1:3→0:3) gave 4-nitrophenyl 4-(pent-4-ynyl)piperazine-1-carboxylate as a yellow oil (2.96 g).

reactant | 1-(pent-4-ynyl)piperazine | 2.2 g | C(CCC#C)N1CCNCC1 | C9H16N2
reactant | Et3N | 22 mL | CCN(CC)CC | C6H15N
reactant | p-nitrophenyl chloroformate | 2.9 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | DCM EtOAc | C(Cl)Cl.CCOC(=O)C
solvent | 1,2-dichloroethane | 22 mL | ClCCCl | C2H4Cl2
product | 4-nitrophenyl 4-(pent-4-ynyl)piperazine-1-carboxylate | 2.96 g | C(CCC#C)N1CCN(CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C16H19N3O4
